US05703246
1-Benzoyl-2,3-diphenylcyclopropane
The same method was applied for the cyclopropanation of chalcone using a stoichiometric amount of dimethyl sulphide (36.5 μl; 0.5 mmol). Column chromatography over silica afforded the title compound as a 5:1 mixture of trans; cis cyclopropanes as a yellowy solid (54 mg; 36.2%.

reactant | chalcone | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | dimethyl sulphide | 0.5 mmol, 36.5 μl | CSC | C2H6S
product | 1-Benzoyl-2,3-diphenylcyclopropane | C(C1=CC=CC=C1)(=O)C1C(C1C1=CC=CC=C1)C1=CC=CC=C1 | C22H18O
